US07847100B2
3-(5-((R)-2-Amino-1-phenylpropan-2-yl)-1,3,4-oxadiazol-2-yl)-5-((cyclopentyloxy)methyl)-N-methyl-N-(methylsulfonyl)benzenamine
Prepared from cyclopentanol and 3-(5-((R)-2-tert-butoxycarbonylamino-1-phenylpropan-2-yl)-1,3,4-oxadiazol-2-yl)-5-(bromomethyl)-N-methyl-N-(methylsulfonyl)benzenamine using a similar procedure as described for the preparation of Example 40. 1H NMR (CD3OD) δ 7.93 (m, 2H), 7.68 (s, 1H), 7.32 (m, 3H), 7.09 (m, 2H), 4.59 (s, 2H), 4.10 (m, 1H), 3.45 (s, 2H), 3.38 (s, 3H), 2.96 (s, 3H), 1.88 (s, 3H), 1.78 (m, 6H), 1.60 (m, 2H).

reactant | cyclopentanol | C1(CCCC1)O | C5H10O
reactant | 3-(5-((R)-2-tert-butoxycarbonylamino-1-phenylpropan-2-yl)-1,3,4-oxadiazol-2-yl)-5-(bromomethyl)-N-methyl-N-(methylsulfonyl)benzenamine | C(C)(C)(C)OC(=O)N[C@@](CC1=CC=CC=C1)(C)C1=NN=C(O1)C=1C=C(C=C(C1)CBr)N(S(=O)(=O)C)C | C25H31BrN4O5S
product | 3-(5-((R)-2-Amino-1-phenylpropan-2-yl)-1,3,4-oxadiazol-2-yl)-5-((cyclopentyloxy)methyl)-N-methyl-N-(methylsulfonyl)benzenamine | N[C@@](CC1=CC=CC=C1)(C)C1=NN=C(O1)C=1C=C(C=C(C1)COC1CCCC1)N(S(=O)(=O)C)C | C25H32N4O4S
